US05026913
1,2-Bis (2-mercapto-2-methylpropylamino)benzene (0.17 g, 6.1 ×10 -4 mol, 120 M %) and 0.07 g (5.1×10-4 mol, 100 M %) 1 -bromobutane were dissolved in 25 ml tetrahydrofuran (freshly distilled over Na). Sodium hydride (0.03 g, 6.25×10-4 mol, 102 M %) was then added. The mixture was stirred at room temperature under nitrogen for 3 hours. The reaction mixture was worked up as in Example 40. The product was isolated by radial chromatography on 1 mm silica plate, using hexane:ethyl acetate as the eluting solvent, giving 40 mg (23% yield) 2-(2-butylthio-2-methylpropylamino]-1-(2-mercapto-2-methylpropylamino)benzene as a yellow oil.

reactant | 1,2-Bis (2-mercapto-2-methylpropylamino)benzene | 6.1 ×10 -4 mol, 120 M, 0.17 g | SC(CNC1=C(C=CC=C1)NCC(C)(S)C)(C)C | C14H24N2S2
reactant | 1 -bromobutane | 5.1×10-4 mol, 100 M, 0.07 g | BrCCCC | C4H9Br
reactant | Sodium hydride | 6.25×10-4 mol, 102 M, 0.03 g | [H-].[Na+]
reactant | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-butylthio-2-methylpropylamino]-1-(2-mercapto-2-methylpropylamino)benzene | 40 mg, 23% yield | C(CCC)SC(CNC1=C(C=CC=C1)NCC(C)(C)S)(C)C | C18H32N2S2
